US07547680B2
4-(3-Benzyloxyphenyl)-3-(4-hydroxybutoxy)benzonitrile
4-Hydroxy-3-(4-hydroxybutoxy)benzonitrile (1.0 g) and pyridine (1.9 mL) were dissolved in dichloromethane (15 mL), and to the mixture was added dropwise trifluoromethanesulfonic anhydride (1.7 mL) under ice-cooling. The mixture was stirred at room temperature for 30 minutes, and to the reaction mixture was added 1 mol/L hydrochloric acid (50 mL). The resulting mixture was extracted with ethyl acetate, and the organic layer was washed with a saturated aqueous sodium hydrogen carbonate solution and brine successively and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give trifluoromethanesulfonic acid ester. The obtained trifluoromethanesulfonic acid ester, 3-benzyloxyphenylboronic acid (1.3 g), sodium carbonate (1.0 g), tetrakis(triphenylphosphine)palladium (0.3 g) and water (2 mL) were suspended in N,N-dimethylformamide (15 mL), and the mixture was stirred at 80° C. for 12 hours. To the reaction mixture was added dropwise 1 mol/L hydrochloric acid (30 mL), and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by column chromatography on aminopropylated silica gel (eluent: ethyl acetate/hexane=1/5) to give the title compound (0.8 g).

reactant | 3-benzyloxyphenylboronic acid | 1.3 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)B(O)O | C13H13BO3
reactant | sodium carbonate | 1.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 2 mL | O | H2O
reactant | hydrochloric acid | 1 mol/L, 30 mL | Cl | ClH
reactant | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(3-Benzyloxyphenyl)-3-(4-hydroxybutoxy)benzonitrile | 0.8 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=C(C=C(C#N)C=C1)OCCCCO | C24H23NO3
